US04459414
Tetrakis-(o-methoxyphenylthio)-phthalic acid N-phenylimide.
2 g (3.71 millimols) of tetrabromophthalic acid N-phenylimide, 2.34 g (16.7 millimols) of o-methoxythiophenol, 3.34 g (24.2 millimols) of potassium carbonate and 20 ml of tetrahydrofuran are stirred at 25° C. for 24 hours. After acidification, the mixture is extracted with methylene chloride, the extracts are dried and evaporated and the residue is recrystallised from toluene. This yields 2.75 g (96% of theory) of the title imide; melting point 142°-6° C.

reactant | tetrabromophthalic acid N-phenylimide | 3.71 millimols, 2 g | C1(=CC=CC=C1)N=C(C=1C(C(=O)O)=C(C(=C(C1Br)Br)Br)Br)O | C14H7Br4NO3
reactant | o-methoxythiophenol | 16.7 millimols, 2.34 g | COC1=C(C=CC=C1)S | C7H8OS
reactant | potassium carbonate | 24.2 millimols, 3.34 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Tetrakis-(o-methoxyphenylthio)-phthalic acid N-phenylimide | C1(=CC=CC=C1)N=C(C=1C(C(=O)O)=C(C(=C(C1SC1=C(C=CC=C1)OC)SC1=C(C=CC=C1)OC)SC1=C(C=CC=C1)OC)SC1=C(C=CC=C1)OC)O | C42H35NO7S4
